US06207686B1
To a mixture of methyl 4-(2-benzyloxyphenyl)crotonate (14.4 g) and nickel chloride hexahydrate (1.19 g) in methanol (200 ml) was added portionwise sodium borohydride (3.78 g). During addition, the reaction temperature was kept at 20° C. by ice cooling. After the addition was completed, the mixture was stirred at ambient temperature for 1 hour and filtered. The filtrate was concentrated under reduced pressure. To the residue, water (100 ml) was added and the solution was extracted with diethyl ether. The organic layer was washed with brine, dried and evaporated in vacuo and the residue was purified by column chromatography on silica gel [eluting with ethyl acetate - n-hexane (1:1)] to give methyl 4-(2-benzyloxyphenyl)butyrate (11.5 g).

reactant | methyl 4-(2-benzyloxyphenyl)crotonate | 14.4 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C/C=C/C(=O)OC | C18H18O3
reactant | sodium borohydride | 3.78 g | [BH4-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
catalyst | nickel chloride hexahydrate | 1.19 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | methyl 4-(2-benzyloxyphenyl)butyrate | 11.5 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC(=O)OC | C18H20O3
